US07547710B2
To a solution of (6-bromo-2-isobutyl-4-phenylquinolin-3-yl)methylamine (1.1 g, 3.1 mmol) in ethyl acetate (50 ml) was added di-tert-butyl dicarbonate (1.0 g, 4.6 mmol), and the mixture was stirred at room temperature for 2 hrs. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography, crystallized from diisopropyl ether and recrystallized from diisopropyl ether-ethyl acetate to give tert-butyl (6-bromo-2-isobutyl-4-phenylquinolin-3-yl)methylcarbamate (0.52 g, yield 36%) as colorless crystals.

reactant | (6-bromo-2-isobutyl-4-phenylquinolin-3-yl)methylamine | 3.1 mmol, 1.1 g | BrC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CN)C1=CC=CC=C1 | C20H21BrN2
reactant | di-tert-butyl dicarbonate | 4.6 mmol, 1.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | tert-butyl (6-bromo-2-isobutyl-4-phenylquinolin-3-yl)methylcarbamate | 0.52 g, yield 36% | BrC=1C=C2C(=C(C(=NC2=CC1)CC(C)C)CNC(OC(C)(C)C)=O)C1=CC=CC=C1 | C25H29BrN2O2
